US07842715B2
Preparation of 1-(4-Aminobenzoyl)-3-dimethylamino-pyrrolidine
A mixture of 4-aminobenzoic acid (1.4 g, 10 mmol), 3-(dimethylamino)-pyrrolidine (1.5 g, 13 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (2.5 g, 13 mmol) in CH2Cl2 is stirred at room temperature for 16 h, diluted with CH2Cl2, washed with water, dried over MgSO4 and concentrated in vacuo to give the title compound (1.1 g), identified by NMR analysis.

reactant | 4-aminobenzoic acid | 10 mmol, 1.4 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | 3-(dimethylamino)-pyrrolidine | 13 mmol, 1.5 g | CN(C1CNCC1)C | C6H14N2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 13 mmol, 2.5 g | CN(CCCN=C=NCC)C | C8H17N3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(4-Aminobenzoyl)-3-dimethylamino-pyrrolidine | 1.1 g | NC1=CC=C(C(=O)N2CC(CC2)N(C)C)C=C1 | C13H19N3O
